US04451476
The intermediate 6-(4-isopropylphenoxy)hexyl bromide was prepared from the potassium salt of 4-isopropylphenol and 1,6-dibromohexane.

reactant | potassium | [K] | K
reactant | 4-isopropylphenol | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
product | 6-(4-isopropylphenoxy)hexyl bromide | C(C)(C)C1=CC=C(OCCCCCCBr)C=C1 | C15H23BrO
